US04977162
A mixture (0.06 moles) of 2-chloromethylquinoline hydrochloride, (0.06 moles) of 1,3-benzenediol and 18 g of potassium carbonate in 50 ml of dimethylformamide is heated at 70° C. overnight. The reaction mixture is poured into water, and the precipitated product is collected, filtered and dried to give 2-(3-hydroxyphenoxy)methylquinoline having an m.p. of 151°-53° C.

reactant | 2-chloromethylquinoline hydrochloride | 0.06 moles | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | 1,3-benzenediol | C1(=CC(=CC=C1)O)O | C6H6O2
reactant | potassium carbonate | 18 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(3-hydroxyphenoxy)methylquinoline | OC=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1 | C16H13NO2
